US06545017B1
Phenol (9.45 g, 100 mmol) was added over a period of 10 minutes to a chilled (0° C.) suspension of sodium hydride (4.24 g of 60%, 106 mmol) in anhydrous tetrahydrofuran (100 mL). The reaction mixture was allowed to stir at 0° C. for 30 minutes. A solution of tert-butyl 4-[(2-chloro-6-methyl-3-nitropyridin-4-yl)amino]butylcarbamate (33.92 g, 94.5 mmol) in anhydrous tetrahydrofuran (250 mL) was added over a period of 50 minutes while maintaining the reaction mixture at 0° C. The reaction mixture was allowed to warm to ambient temperature and stirred overnight before being concentrated under reduced pressure. The residue was dissolved in ethyl acetate (500 mL), washed with 1N sodium hydroxide (300 mL), dried over magnesium sulfate and then concentrated to dryness. The crude product was purified by column chromatography (400 g silica gel eluting with 7:3 hexanes:ethyl acetate to provide 25.4 g of tert-butyl 4-[(6-methyl-3-nitro-2-phenoxypyridin-4-yl)amino]butylcarbamate.

reactant | Phenol | 100 mmol, 9.45 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 106 mmol, 4.24 g | [H-].[Na+]
reactant | tert-butyl 4-[(2-chloro-6-methyl-3-nitropyridin-4-yl)amino]butylcarbamate | 94.5 mmol, 33.92 g | ClC1=NC(=CC(=C1[N+](=O)[O-])NCCCCNC(OC(C)(C)C)=O)C | C15H23ClN4O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-[(6-methyl-3-nitro-2-phenoxypyridin-4-yl)amino]butylcarbamate | 25.4 g | CC1=CC(=C(C(=N1)OC1=CC=CC=C1)[N+](=O)[O-])NCCCCNC(OC(C)(C)C)=O | C21H28N4O5
